US08420863B2
Alkylation of 3-bromo-5-fluorobenzaldehyde with acetonitrile following the method used in Example 50 except KOBu-t was used instead of LDA gave 3-(3-bromo-5-fluorophenyl)-3-hydroxypropanenitrile as a light color oil. Yield (2.5 g, 86%): 1H NMR (400 MHz, CDCl3) δ 7.34 (bs, 1H), 7.21-7.24 (m, 1H), 7.08-7.11 (m, 1H), 5.02 (t, J=6.4 Hz, 1H), 2.75 (d, J=6.4 Hz, 2H).

reactant | 3-bromo-5-fluorobenzaldehyde | BrC=1C=C(C=O)C=C(C1)F | C7H4BrFO
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-(3-bromo-5-fluorophenyl)-3-hydroxypropanenitrile | BrC=1C=C(C=C(C1)F)C(CC#N)O | C9H7BrFNO
